US06388134B1
To a solution of 0.6 g (1.32 mmol) [2-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-2-hydroxyethyl]-6-[4-phenylbutoxy)hexylamine in 20 ml of a 1:1 H2O/MeOH mixture is added 0.15 ml (1.75 mmol) 35% HCl. After allowing the reaction to stir for 48 hr at room temperature, the MeOH is evaporated off at reduced pressure. The resulting aqueous mixture is extracted with 20 ml CH2Cl2. The organic phase is washed sequentially with 20 ml of a saturated NaHCO3 solution and further 20 ml H2O, dried on anhydrous Na2SO4 and evaporated to dryness to yield 0.24 g (43.9%) 2-hydroxymethyl-4-{1-hydroxy-2-[6-(4-phenylbutoxy)hexylamino]ethyl}phenol.

reactant | [2-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-2-hydroxyethyl]-6-[4-phenylbutoxy)hexylamine | 1.32 mmol, 0.6 g | CC1(OC2=C(CO1)C=C(C=C2)C(CNCCCCCCOCCCCC2=CC=CC=C2)O)C | C28H41NO4
reactant | HCl | 1.75 mmol, 0.15 ml | Cl | ClH
solvent | H2O MeOH | 20 ml | O.CO
product | 2-hydroxymethyl-4-{1-hydroxy-2-[6-(4-phenylbutoxy)hexylamino]ethyl}phenol | 0.24 g, 43.9% | OCC1=C(C=CC(=C1)C(CNCCCCCCOCCCCC1=CC=CC=C1)O)O | C25H37NO4
